US04506079
A mixture of 5-bromo-1-p-toluenesulfonyl-4-oxo-4,5,6,7-tetrahydroindole (100 parts), epibromohydrin (1.2 molar equivalents) and stannic chloride (0.1 molar equivalent) in carbon tetrachloride (1500 parts) is kept at 0° C. to 2° C. for 19 hours. The reaction mixture is carefully mixed with 5N-sodium hydroxide to adjust at pH 10, shaken and organic layer separated. By washing with water, drying and concentration, the organic layer gives 72.3% yield of 5-bromo-4'-bromomethyl-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-2'-[1,3]dioxolane diastereomer mixture. Amounts show ratios to the starting 5-bromo-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-one.

reactant | 5-bromo-1-p-toluenesulfonyl-4-oxo-4,5,6,7-tetrahydroindole | BrC1C(C=2C=CN(C2CC1)S(=O)(=O)C1=CC=C(C=C1)C)=O | C15H14BrNO3S
reactant | epibromohydrin | 1.2 molar | C(Br)C1CO1 | C3H5BrO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromo-4'-bromomethyl-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-2'-[1,3]dioxolane | 72.3% yield | BrC1CCC=2N(C=CC2C12OCC(O2)CBr)S(=O)(=O)C2=CC=C(C=C2)C | C18H19Br2NO4S
